data/polar.json
{"reaction_name": "Betti reaction", "rsmi": "[cH:1]1[cH:2][cH:3][c:4]([O:5][H:18])[cH:6][c:7]([H:22])1.[CH3:8][C:9]([H:19])=[O:10].[c:11]1([N:12]([H:20])[H:21])[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[cH:1]1[cH:2][cH:3][c:4]([O:5][H:18])[cH:6][c:7]1[C:9]([H:19])([CH3:8])[N:12]([H:21])[c:11]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[O:10]([H:20])[H:22]", "epd": [["LP-/Sigma+", [12], [9, 12]], ["Sigma-/LP+", [9, 10], [10]], ["LP-/Sigma+", [10], [10, 20]], ["Sigma-/LP+", [12, 20], [12]], ["Pi-/Sigma+", [9, 10], [7, 9]], ["Sigma-/Sigma+", [7, 22], [10, 22]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:14][C:30](=[O:7])[N:26]=[CH:13][c:6]1[cH:2][cH:20][cH:25][cH:21][cH:3]1)([CH3:27])([CH3:28])[CH3:29].[c:4]1([S:17](=[O:22])(=[O:23])[CH-:31][c:10]2[cH:8][cH:18][cH:24][cH:19][cH:9]2)[cH:11][cH:15][cH:5][cH:16][cH:12]1>>[C:1]([O:14][C:30]([O-:7])=[N:26][CH:13]([c:6]1[cH:2][cH:20][cH:25][cH:21][cH:3]1)[CH:31]([c:10]1[cH:8][cH:18][cH:24][cH:19][cH:9]1)[S:17]([c:4]1[cH:11][cH:15][cH:5][cH:16][cH:12]1)(=[O:22])=[O:23])([CH3:27])([CH3:28])[CH3:29]", "epd": [["LP-/Sigma+", [31], [31, 13]], ["Pi-/Pi+", [13, 26], [26, 30]], ["Pi-/LP+", [30, 7], [7]]]}
{"reaction_name": "Burgess dehydration", "rsmi": "[O:1]([C:9]([NH:5][S:2](=[O:6])(=[O:7])[O:10][CH:8]([CH:3]([CH3:11])[H:14])[CH3:4])=[O:12])[CH3:13]>>[CH:3](=[CH:8]([CH3:4]))[CH3:11].[O:1]([C:9]([NH:5][S:2](=[O:6])(=[O:7])[O:10][H:14])=[O:12])[CH3:13]", "epd": [["LP-/Sigma+", [10], [10, 14]], ["Sigma-/LP+", [3, 14], [3]], ["LP-/Pi+", [3], [3, 8]], ["Sigma-/LP+", [8, 10], [10]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:17])=[C:31]([Cl:15])[C:32]([Cl:20])=[C:12]([Cl:19])[C:30]([Cl:6])([Cl:7])[C:16]1=[O:18].[cH:2]1[cH:8][c:25]([CH:4]=[C:29]2[CH:26]=[CH:13][C:23](=[N+:24]([O-:21])[O-:22])[CH:14]=[CH:27]2)[cH:9][cH:3][c:10]1[N+:28](=[O:5])[O-:11]>>[c:1]1([Cl:17])[c:16]([O-:18])[c:30]([Cl:7])[c:12]([Cl:19])[c:32]([Cl:20])[c:31]1[Cl:15].[cH:2]1[cH:8][c:25]([CH:4]([Cl:6])[c:29]2[cH:26][cH:13][c:23]([N+:24](=[O:21])[O-:22])[cH:14][cH:27]2)[cH:9][cH:3][c:10]1[N+:28](=[O:5])[O-:11]", "epd": [["LP-/Pi+", [21], [24, 21]], ["Pi-/Pi+", [23, 24], [13, 23]], ["Pi-/Pi+", [26, 13], [29, 26]], ["Pi-/Sigma+", [4, 29], [4, 6]], ["Sigma-/Pi+", [6, 30], [30, 16]], ["Pi-/LP+", [16, 18], [18]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH:1]([C:6]([c:13]1[cH:4][cH:15][c:2]([O:23][CH3:3])[cH:16][cH:5]1)=[O:14])=[S:28]([CH3:7])[CH3:8].[cH:9]1[c:17]([CH+:31][c:18]2[cH:10][c:21]([F:26])[cH:30][c:22]([F:27])[cH:11]2)[cH:12][c:19]([F:24])[cH:29][c:20]1[F:25]>>[CH:1]([C:6]([c:13]1[cH:4][cH:15][c:2]([O:23][CH3:3])[cH:16][cH:5]1)=[O:14])([S+:28]([CH3:7])[CH3:8])[CH:31]([c:17]1[cH:9][c:20]([F:25])[cH:29][c:19]([F:24])[cH:12]1)[c:18]1[cH:10][c:21]([F:26])[cH:30][c:22]([F:27])[cH:11]1", "epd": [["Pi-/Sigma+", [1, 28], [1, 31]]]}
{"reaction_name": "Oxetane opening", "rsmi": "[CH2:2]1[CH2:4][O:3][CH2:5]1.[OH-:1]>>[OH:1][CH2:4][CH2:2][CH2:5][O-:3]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [3, 4], [3]]]}
{"reaction_name": "Corey–Chaykovsky ylide generation", "rsmi": "[CH2:1]([S+:4]([CH3:2])([CH3:3])=[O:7])[H:8].[I-:6].[NH2-:5]>>[CH2-:1][S+:4]([CH3:2])([CH3:3])=[O:7].[I-:6].[NH2:5][H:8]", "epd": [["LP-/Sigma+", [5], [5, 8]], ["Sigma-/LP+", [1, 8], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:3][C:10](=[C:5]=[N-:14])[c:15]1[cH:18][cH:21][cH:25][cH:22][cH:19]1.[N+:1](=[O:2])([c:9]1[cH:7][c:11]([N+:16](=[O:6])[O-:20])[cH:17][c:8]2[c:24]1[n:13][o:23][n+:26]2[O-:4])[O-:12]>>[N+:1](=[O:2])([C:9]1=[CH:7][C:11](=[N+:16]([O-:6])[O-:20])[CH:17]([C:10]([CH3:3])([C:5]#[N:14])[c:15]2[cH:18][cH:21][cH:25][cH:22][cH:19]2)[c:8]2[c:24]1[n:13][o:23][n+:26]2[O-:4])[O-:12]", "epd": [["LP-/Pi+", [14], [5, 14]], ["Pi-/Sigma+", [10, 5], [10, 17]], ["Pi-/Pi+", [17, 11], [11, 16]], ["Pi-/LP+", [16, 6], [6]]]}
{"reaction_name": "Baeyer–Villiger oxidation and rearrangement", "rsmi": "[CH2:1]1[C:6](=[O:3])[CH2:2][CH2:12][CH2:5][CH2:11]1.[O:4]([O:8][H:13])[C:10](=[O:7])[CH3:9]>>[CH2:1]1[O:8][C:6](=[O:3])[CH2:2][CH2:12][CH2:5][CH2:11]1.[O:4]([C:10](=[O:7])[CH3:9])[H:13]", "epd": [["LP-/Sigma+", [8], [1, 8]], ["Sigma-/LP+", [4, 8], [4]], ["LP-/Sigma+", [4], [4, 13]], ["Sigma-/LP+", [8, 13], [8]], ["Sigma-/Sigma+", [1, 6], [6, 8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:4](=[O:18])[O-:20])[s:5][cH:2][c:9]([N+:3](=[O:10])[O-:15])[cH:17]1.[cH:6]1[cH:11][c:14]([S-:19])[cH:12][cH:7][c:13]1[O:16][CH3:8]>>[C:1]1([N+:4](=[O:18])[O-:20])=[CH:17][C:9](=[N+:3]([O-:10])[O-:15])[CH:2]([S:19][c:14]2[cH:11][cH:6][c:13]([O:16][CH3:8])[cH:7][cH:12]2)[S:5]1", "epd": [["LP-/Sigma+", [19], [19, 2]], ["Pi-/Pi+", [2, 9], [9, 3]], ["Pi-/LP+", [3, 10], [10]]]}
